2178-02-07 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Intubation was discussed with the patient and her family and she
   agreed to undergo intubation for a short period of time to get over her
   acute illness but stated that she would no want to be on a ventilator
   for a long period of time.
   - A femoral line was placed for access.
   - Found to have an NSTEMI. CK 159 -->139 --> 115  MB 12 --> 9 --> 7
   Trop 0.39 --> 0.38 --> 0.37
   - Given 5 mg IV lopressor x 2 and 25 mg po, but her HR remained in the
   130's.  She was started on an amiodarone gtt and po amiodarone and an
   A-line was placed.  She continued to be tachycardic and was then given
   150 mg IV bolus of amiodarone.  She was also started on neo as her SBP
   dropped when the amiodarone was started.  In the am she was still tachy
   to the 130's so she was given another 150 mg IV bolus of amiodarone.
   - Repeat evening Hct was 33.2 (from 35.4).
   - Her neo was weaned off overnight and she was started on a low-dose
   lasix gtt given her persistently low PaO2 to try to diurese her gently.
   This am she denies pain, shortness of breath, or other complaints.  No
   further episodes of bleeding.
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-2-6**] 04:52 PM
   Metoprolol - [**2178-2-6**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-7**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 137 (95 - 145) bpm
   BP: 96/61(72) {88/56(70) - 120/70(85)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    431 mL
                                                                    187 mL
   PO:
             TF:
   IVF:
                                                                    431 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    485 mL
   Urine:
                                                                    480 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -799 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.52/33/91/28/3
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Elderly, anxious female lying in bed with a face
   mask in NAD.
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic and regular.  No MRG
   Respiratory / Chest: Crackles at the bases Rt>Lt, Patient with an
   increased RR, but does not appear to have increased WOB or accessory
   muscle use.  Able to speak in full sentences.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Alert and oriented x 3.
   Labs / Radiology
   391 K/uL
   10.5 g/dL
   111 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.8 mEq/L
   26 mg/dL
   102 mEq/L
   143 mEq/L
   30.0 %
   18.7 K/uL
        [image002.jpg]
                             [**2178-2-6**]  12:50 PM
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
   WBC
   23.1
   22.4
   18.7
   Hct
   35.4
   33.2
   30.0
   Plt
   488
   504
   391
   Cr
   1.1
   1.2
   1.2
   TropT
   0.39
   0.38
   0.37
   0.23
   TCO2
   29
   24
   28
   Glucose
   164
   117
   111
   Other labs: PT / PTT / INR:14.8/27.2/1.3, CK / CKMB /
   Troponin-T:98/5/0.23, ALT / AST:32/55, Alk Phos / T Bili:126/0.4,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:3.4 g/dL, LDH:383 IU/L, Ca++:8.1
   mg/dL, Mg++:2.8 mg/dL, PO4:2.4 mg/dL
   [1][**2178-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2178-2-6**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   69F w/ h/o afib on coumadin, PUD, COPD, CKD, h/o CVA, HTN,
   hyperlipidemia transferred from [**Hospital1 709**] by family request after presenting
   with black stools, developed hypoxemia and tachyarrhythmia with RVR,
   now with continued respiratory distress complicated by demand ischemia.
   # respiratory distress/COPD/PNA: The patient has a history of COPD,
   likely exacerbated by by her tachyarrhythmia and fluid overload. On
   High-flow over the day and last night.  ABG on arrival was 7.45/39/55
   and there was discussion about intubating her, however she was strongly
   against being intubated, even after it was explained that it would only
   be for a short amount of time.  Her family discussed the issue with
   her, but by the time she had agreed to undergo intubation, she had
   improved somewhat so she was continued on the high flow mask.  She was
   given 80 mg IV lasix x 1 for diuresis in the afternoon and over night
   started on a low-dose lasix gtt for continued diuresis as her CXR
   showed evdience of pulmonary edema.  There was also a question of an
   aspiration PNA at the OSH.
   - Continue ventilatory support with high-flow oxygen.  If the patient
   clinically decomensates, would need to intubate her.
   - Continue gentle diuresis with the lasix given her vol overload on CXR
   (likely [**2-16**] transfusion, IVF at OSH), goal I/O 500 cc to 1 L neg over
   next 24hrs.
   - COPD treatment including advair, spiriva, and standing atrovent nebs
   and xopenex nebs
   - Continue levo/flagyl for a possible aspiration PNA until her
   respiratory status is stable.  Will send a sputum culture.
   # tachyarrhythmia: The patient has a h/o afib on coumadin although
   rhythm currently appears regular likely aflutter She was given 5 mg IV
   lopressor x 2 and 25 mg po, but her HR remained in the 130's.  She was
   started on an amiodarone gtt and po amiodarone and an A-line was
   placed.  She continued to be tachycardic and was then given 150 mg IV
   bolus of amiodarone.  She was also started on neo as her SBP dropped
   when the amiodarone was started.  In the am she was still tachy to the
   130's so she was given another 150 mg IV bolus of amiodarone.
   - Continue amiodarone loading and 200 mg of po amiodarone [**Hospital1 **].  Also
   continue metoprolol 12.5 mg [**Hospital1 **].
   # NSTEMI: Likely secondary to demand from anemia, resp distress, and
   tachycardia. CK 159 -->139 --> 115
98  MB 12 --> 9 --> 7
5  Trop 0.39
   --> 0.38 --> 0.37
 0.23.  Currently chest pain free.
   - As her CEs have been trending down, no need to continue trending.
   - once her HR is better controlled, consider checking a TTE
   - Continue 12.5 mg of metoprolol [**Hospital1 **] and her statin.
   - no ASA, no heparin [**2-16**] GI bleeding
   # GIB: GI aware but patient not stable currently for endoscopy; given
   concurrent NSTEMI, risk:benefit ratio may favor endoscopy earlier, as
   definitively addressing bleeding may allow earlier
   anticoagulation/antiplatelet therapy.  INR reversed at OSH, this am
   1.3.  No further clinical evidence of bleeding.
   - Continue hold anticoagulation for now
   - continue Protonix IV.
   - Appreciate GI consult, will f/u recs
   - Hct has been in the low 30
s and stable.  Can check another Hct in 8
   hrs and if stable, move to [**Hospital1 **] Hct checks.
   # h/o CVA: on anticoagulation as outpatient but GIB currently precludes
   this
   - monitor neuro exam
   - hold anticoagulation due to recent GIB
   # hypertension: Her BP was elevated on admission likely from
   respiratory distress.  She was given metoprolol for rate control and
   loaded with amiodarone as above and her SBPs dropped to the point she
   required neo for a short period of time.
   -  Continue to monitor BP closely.
   # Hypercholesterolemia: Continue statin
   # Depression: Continue citalopram
   # Code: DNR/DNI
   # Contact: daughter [**Name (NI) **] [**Name (NI) 3600**] [**Telephone/Fax (1) 3601**] (h), [**Telephone/Fax (1) 3602**] (w);
   also spoke with son [**Name (NI) 1247**] at bedside
   ICU Care
   Nutrition: ADAT as long as her Hct remains stable.
   Glycemic Control:  SSI
   Lines:   Will have a PICC placed and plan to pull her femoral line once
   her IV requirements decrease.
   22 Gauge - [**2178-2-6**] 12:12 PM
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: pneumoboots (no SQH given her bleeding)
   Stress ulcer: PPI drip given her bleeding
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
 The patient has stated multiple times that she
   does not want to be intubated or resuscitated and only agreed to this
   while her children were present.  As soon as they left she again stated
   her wish to be DNR/DNI.  Will have a discussion with her children
   regarding her wishes.
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);

2178-02-07 08:42:00 Physician Attending Progress Note
Chief Complaint: Pt continued hypoxemic. Refused BiPAP and intubation.
   Found to have NSTEMI. Remained tachycardic.
   HPI:
   Started on Amiodarone. Had a-line; required neo for BP support
   transiently.
   24 Hour Events:
 MULTI LUMEN - START [**2178-2-6**] 04:04 PM
 ARTERIAL LINE - START [**2178-2-6**] 07:19 PM
   No further GI bleeding. ABG last  7.54/27/63
                                                         7.52/33/91 on
   repeat
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-2-6**] 04:52 PM
   Metoprolol - [**2178-2-6**] 06:15 PM
   Other medications:
   fluticasone/salmeterol, citalopram, atorvastatin, tiotropium, docusate,
   RISS, levoflox, amiodarone, metoprolol, lasix, xopenex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-7**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 142 (95 - 145) bpm
   BP: 119/71(86) {88/56(70) - 120/71(86)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                    431 mL
                                                                    276 mL
   PO:
             TF:
   IVF:
                                                                    431 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    565 mL
   Urine:
                                                                    480 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -799 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.52/33/91/28/3
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Well nourished
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   391 K/uL
   111 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.8 mEq/L
   26 mg/dL
   102 mEq/L
   143 mEq/L
   30.0 %
   18.7 K/uL
         [image002.jpg]
                             [**2178-2-6**]  12:50 PM
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
   WBC
   23.1
   22.4
   18.7
   Hct
   35.4
   33.2
   30.0
   Plt
   488
   504
   391
   Cr
   1.1
   1.2
   1.2
   TropT
   0.39
   0.38
   0.37
   0.23
   TCO2
   29
   24
   28
   Glucose
   164
   117
   111
   Other labs: PT / PTT / INR:14.8/27.2/1.3, CK / CKMB /
   Troponin-T:98/5/0.23, ALT / AST:32/55, Alk Phos / T Bili:126/0.4,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:3.4 g/dL, LDH:383 IU/L, Ca++:8.1
   mg/dL, Mg++:2.8 mg/dL, PO4:2.4 mg/dL
   Microbiology: BC's neg X 2
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
       Demand ischemia, continue statin, beta blocker, holding ASA
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
        following Hct q 8h
       GI wants to postpone endoscopy given MI and unstable hemodynamics
 TACHYCARDIA, OTHER
        A-flutter, loading with Amiodarone, continuing metoprolol
       BP well controlled - off Neo
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
       Volume overload - [**Last Name (un) 3622**] continued diuresis
       Possible CAP - Would continue current AB
       Hi-flow oxygen
       Not  enthusiastic about intubation
      COPD - On nebs/ opt meds.
   ICU Care
   Nutrition:
   Comments: Advance to fulls
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-02-08 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory Distress
   24 Hour Events:
 EKG - At [**2178-2-8**] 12:00 AM
   - serial hct 30--->29.5--->31
   - gave iv dilt and started 30mg qid po with good effect - went back
   into NSR, then reverted back in to aflutter around 120, gave another
   5mg iv dilt and increaed to to 60mg, relapsed,got 5mg iv and increased
   po dilt to 90mg without response.  Also got 250cc bolus given diuresis
   on lasix gtt, but no response.
   - cards curbside:  try iv dilt 2.5mg iv x1, if works give po.  If
   doesn't work, then increase BB to 25bid.  If doesn't work, mini dig
   load - 0.125mg, 0.125mg, then daily 0.0625mg.  Then if no change, call
   cards c/s
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Diltiazem - [**2178-2-8**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-8**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 142 (86 - 145) bpm
   BP: 129/70(89) {92/42(59) - 129/70(89)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,836 mL
                                                                    447 mL
   PO:
                                                                  1,200 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    636 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    957 mL
   Urine:
                                                                  1,387 mL
                                                                    957 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General Appearance: Elderly, NAD
   Eyes / Conjunctiva: PERRL, diminished conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Tachycardic and regular currently.  No MRG
   Respiratory / Chest: Crackles at the bases Rt>Lt, with diminished
   breath sounds at R base
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: Alert and oriented x 3.
   Labs / Radiology
   307 K/uL
   9.7 g/dL
   109 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2178-2-6**]  12:50 PM
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
   WBC
   23.1
   22.4
   18.7
   15.3
   Hct
   35.4
   33.2
   30.0
   29.5
   31.2
   29.4
   Plt
   488
   504
   391
   307
   Cr
   1.1
   1.2
   1.2
   1.5
   1.4
   TropT
   0.39
   0.38
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   164
   117
   111
   161
   109
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:32/55, Alk Phos / T Bili:126/0.4,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:3.4 g/dL, LDH:383 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   69F w/ h/o afib on coumadin, PUD, COPD, CKD, h/o CVA, HTN,
   hyperlipidemia transferred from [**Hospital1 709**] by family request after presenting
   with black stools, developed hypoxemia and tachyarrhythmia with RVR,
   now with continued respiratory distress complicated by demand ischemia.
   # Tachyarrhythmia: Has been hemodynamically stable, bp
s running
   90
s-130
s.  Overnight, dilt iv and po tried with increasing doses
   without effect .  The patient has a h/o afib on coumadin although
   rhythm currently appears regular likely aflutter She was given 5 mg IV
   lopressor x 2 and 25 mg po, but her HR remained in the 130's.  She was
   started on an amiodarone gtt and po amiodarone and an A-line was
   placed.  She continued to be tachycardic and was then given 150 mg IV
   bolus of amiodarone.  She was also started on neo as her SBP dropped
   when the amiodarone was started.  In the am she was still tachy to the
   130's so she was given another 150 mg IV bolus of amiodarone.
   - increase BB to 25mg [**Hospital1 **]
   - cards c/s for possible ablation
   # Respiratory distress/COPD/PNA:  On 6L nc this morning. Leukocytosis
   resolving.  Scattered crackles on exam.  The patient has a history of
   COPD, likely exacerbated by by her tachyarrhythmia and fluid overload.
   On High-flow over the day and last night.  ABG on arrival was
   7.45/39/55 and there was discussion about intubating her, however she
   was strongly against being intubated, even after it was explained that
   it would only be for a short amount of time.  Her family discussed the
   issue with her, but by the time she had agreed to undergo intubation,
   she had improved somewhat so she was continued on the high flow mask.
   She was given 80 mg IV lasix x 1 for diuresis in the afternoon and over
   night started on a low-dose lasix gtt for continued diuresis as her CXR
   showed evdience of pulmonary edema.  There was also a question of an
   aspiration PNA at the OSH.
   - Continue ventilatory support with high-flow oxygen.  If the patient
   clinically decomensates, would need to intubate her.
   - Continue gentle diuresis with the lasix given her vol overload on CXR
   (likely [**2-16**] transfusion, IVF at OSH), goal I/O 500 cc to 1 L neg over
   next 24hrs.
   - COPD treatment including advair, spiriva, and standing atrovent nebs
   and xopenex nebs
   - Continue levo/CTX for a possible aspiration PNA until her respiratory
   status is stable
   # CRI:  Cr at 1.4 this morning, stable even with Lasix diuresis
   - trend
   - replete lytes prn
   # NSTEMI: Likely secondary to demand from anemia, resp distress, and
   tachycardia. CK 159 -->139 --> 115
98  MB 12 --> 9 --> 7
5  Trop 0.39
   --> 0.38 --> 0.37
 0.23.  Currently chest pain free.
   - As her CEs have been trending down, no need to continue trending.
   - once her HR is better controlled, consider checking a TTE
   - increase metoprolol to 25mg [**Hospital1 **]
   - continue statin
   - no ASA, no heparin [**2-16**] GI bleeding
   # GIB: Stable hct for 24 hours around 30.  GI aware.  Given tachcardia
   and stable hct, would likely need to resolve cardiac arrythmias before
   proceeding with scope though she does need one.
   - Continue holding  anticoagulation for now
   - continue Protonix IV.
   - Appreciate GI consult, will f/u recs
   - check pm hct
   # h/o CVA: on anticoagulation as outpatient but GIB currently precludes
   this
   - monitor neuro exam
   - hold anticoagulation due to recent GIB
   # hypertension: Her BP was elevated on admission likely from
   respiratory distress.  Has been low normotensive for several days.  She
   was given metoprolol for rate control and loaded with amiodarone as
   above and her SBPs dropped to the point she required neo for a short
   period of time.
   -  Continue to monitor BP closely.
   # Hypercholesterolemia: Continue statin
   # Depression: Continue citalopram
   ICU Care
   Nutrition: Regular
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: with patient and children: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3600**] [**Telephone/Fax (1) 3601**]
   (h), [**Telephone/Fax (1) 3602**] (w); also spoke with son [**Name (NI) 1247**] at bedside
   Code status: Full code
   Disposition: ICU

2178-02-08 09:34:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2178-2-8**] 12:00 AM
 EKG - At [**2178-2-8**] 04:00 AM
 EKG - At [**2178-2-8**] 05:00 AM
 EKG - At [**2178-2-8**] 06:00 AM
   Hct Stable overnight. On Dilt - in sinus for 5 hrs, reverted to A
   flutter - continues on dilt/amio/beta-blocker
   BP tolerating anti-arrhythmic agents
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Diltiazem - [**2178-2-8**] 04:45 AM
   Other medications:
   advair, spiriva, celexa, lipitor, colace, RISS, amiodarone 200 [**Hospital1 **],
   protonix, atrovent/xopenex, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-8**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.2
   HR: 122 (86 - 145) bpm
   BP: 101/58(72) {92/42(59) - 129/70(89)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,836 mL
                                                                    624 mL
   PO:
                                                                  1,200 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    636 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                  1,142 mL
   Urine:
                                                                  1,387 mL
                                                                  1,142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   307 K/uL
   109 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   34 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2178-2-6**]  12:50 PM
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
   WBC
   23.1
   22.4
   18.7
   15.3
   Hct
   35.4
   33.2
   30.0
   29.5
   31.2
   29.4
   Plt
   488
   504
   391
   307
   Cr
   1.1
   1.2
   1.2
   1.5
   1.4
   TropT
   0.39
   0.38
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   164
   117
   111
   161
   109
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:32/55, Alk Phos / T Bili:126/0.4,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:3.4 g/dL, LDH:383 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
       Demand ischemia, continue statin, beta blocker, holding ASA
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
        following Hct q 8h
       GI wants to postpone endoscopy given MI and unstable hemodynamics
 TACHYCARDIA, OTHER
        A-flutter, loading with Amiodarone, continuing metoprolol
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
       Volume overload - needs continued diuresis with goal of [**Telephone/Fax (1) 3634**]
   ml negative
       Possible CAP - Would continue current AB
       Hi-flow oxygen - down to 6 liters
   COPD -
       On nebs/ opt meds.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-02-09 05:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-2-8**] 10:10 AM
   - Cards consulted yesterday recommended d/c'ing Amiodarone and
   continuing with increasing beta blocker to Metoprolol 50mg TID. Pt's R
   continued to be 140s A. flutter, started per Cards recs on Diltiazem
   drip and continued Metoprolol 50mg TID.
   -Converted to sinus overnight on Diltiazem gtt
   - Furosemide gtt held overnight due to pt's SBP 90s
   - NPO for EGD on Monday
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Diltiazem - [**2178-2-8**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-9**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 72 (72 - 145) bpm
   BP: 121/57(80) {90/50(64) - 129/79(89)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,008 mL
                                                                     89 mL
   PO:
                                                                  1,470 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    538 mL
                                                                     59 mL
   Blood products:
   Total out:
                                                                  2,133 mL
                                                                    246 mL
   Urine:
                                                                  2,133 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   9.5 g/dL
   102 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.5 mEq/L
   36 mg/dL
   107 mEq/L
   142 mEq/L
   30.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
                             [**2178-2-9**]  04:28 AM
   WBC
   23.1
   22.4
   18.7
   15.3
   10.2
   Hct
   35.4
   33.2
   30.0
   29.5
   31.2
   29.4
   30.7
   Plt
   488
   504
   391
   307
   294
   Cr
   1.2
   1.2
   1.5
   1.4
   1.2
   TropT
   0.38
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   117
   111
   161
   109
   102
   Other labs: PT / PTT / INR:14.0/25.2/1.2, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:27/41, Alk Phos / T Bili:91/0.2,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:329 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   69F w/ h/o afib on coumadin, PUD, COPD, CKD, h/o CVA, HTN,
   hyperlipidemia transferred from [**Hospital1 709**] by family request after presenting
   with black stools, developed hypoxemia and tachyarrhythmia with RVR,
   now with continued respiratory distress complicated by demand ischemia.
   # Tachyarrhythmia: Has been hemodynamically stable, bp
s running
   90
s-130
s.  Overnight, dilt iv and po tried with increasing doses
   without effect .  The patient has a h/o afib on coumadin although
   rhythm currently appears regular likely aflutter She was given 5 mg IV
   lopressor x 2 and 25 mg po, but her HR remained in the 130's.  She was
   started on an amiodarone gtt and po amiodarone and an A-line was
   placed.  She continued to be tachycardic and was then given 150 mg IV
   bolus of amiodarone.  She was also started on neo as her SBP dropped
   when the amiodarone was started.  In the am she was still tachy to the
   130's so she was given another 150 mg IV bolus of amiodarone.
   - increase BB to 25mg [**Hospital1 **]
   - cards c/s for possible ablation
   # Respiratory distress/COPD/PNA:  On 6L nc this morning. Leukocytosis
   resolving.  Scattered crackles on exam.  The patient has a history of
   COPD, likely exacerbated by by her tachyarrhythmia and fluid overload.
   On High-flow over the day and last night.  ABG on arrival was
   7.45/39/55 and there was discussion about intubating her, however she
   was strongly against being intubated, even after it was explained that
   it would only be for a short amount of time.  Her family discussed the
   issue with her, but by the time she had agreed to undergo intubation,
   she had improved somewhat so she was continued on the high flow mask.
   She was given 80 mg IV lasix x 1 for diuresis in the afternoon and over
   night started on a low-dose lasix gtt for continued diuresis as her CXR
   showed evdience of pulmonary edema.  There was also a question of an
   aspiration PNA at the OSH.
   - Continue ventilatory support with high-flow oxygen.  If the patient
   clinically decomensates, would need to intubate her.
   - Continue gentle diuresis with the lasix given her vol overload on CXR
   (likely [**2-16**] transfusion, IVF at OSH), goal I/O 500 cc to 1 L neg over
   next 24hrs.
   - COPD treatment including advair, spiriva, and standing atrovent nebs
   and xopenex nebs
   - Continue levo/CTX for a possible aspiration PNA until her respiratory
   status is stable
   # CRI:  Cr at 1.4 this morning, stable even with Lasix diuresis
   - trend
   - replete lytes prn
   # NSTEMI: Likely secondary to demand from anemia, resp distress, and
   tachycardia. CK 159 -->139 --> 115
98  MB 12 --> 9 --> 7
5  Trop 0.39
   --> 0.38 --> 0.37
 0.23.  Currently chest pain free.
   - As her CEs have been trending down, no need to continue trending.
   - once her HR is better controlled, consider checking a TTE
   - increase metoprolol to 25mg [**Hospital1 **]
   - continue statin
   - no ASA, no heparin [**2-16**] GI bleeding
   # GIB: Stable hct for 24 hours around 30.  GI aware.  Given tachcardia
   and stable hct, would likely need to resolve cardiac arrythmias before
   proceeding with scope though she does need one.
   - Continue holding  anticoagulation for now
   - continue Protonix IV.
   - Appreciate GI consult, will f/u recs
   - check pm hct
   # h/o CVA: on anticoagulation as outpatient but GIB currently precludes
   this
   - monitor neuro exam
   - hold anticoagulation due to recent GIB
   # hypertension: Her BP was elevated on admission likely from
   respiratory distress.  Has been low normotensive for several days.  She
   was given metoprolol for rate control and loaded with amiodarone as
   above and her SBPs dropped to the point she required neo for a short
   period of time.
   -  Continue to monitor BP closely.
   # Hypercholesterolemia: Continue statin
   # Depression: Continue citalopram
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-02-09 09:52:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   HYpoxia
   Atrial Fibrillation/Atrial Flutter
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2178-2-8**] 10:10 AM
   -GI in to eval patient and EGD planned for [**2178-2-9**]
   -A-Flutter with 2:1 at 150 and Amiodarone/Dilt/Lopressor all without
   complete response.  Has required Diltiazem gtt and Aimodarone to
   maintain HR at 100 with A-Flutter and 3:1 block
   -Patient with substantial improvement in oxygenation with diuresis
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Levofloxacin - [**2178-2-6**] 06:03 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Diltiazem - [**2178-2-8**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2178-2-9**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 101 (72 - 144) bpm
   BP: 118/58(77) {90/44(64) - 124/79(86)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  2,008 mL
                                                                    207 mL
   PO:
                                                                  1,470 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    538 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,133 mL
                                                                    646 mL
   Urine:
                                                                  2,133 mL
                                                                    646 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   294 K/uL
   102 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.5 mEq/L
   36 mg/dL
   107 mEq/L
   142 mEq/L
   30.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2178-2-6**]  03:24 PM
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
                             [**2178-2-9**]  04:28 AM
   WBC
   23.1
   22.4
   18.7
   15.3
   10.2
   Hct
   35.4
   33.2
   30.0
   29.5
   31.2
   29.4
   30.7
   Plt
   488
   504
   391
   307
   294
   Cr
   1.2
   1.2
   1.5
   1.4
   1.2
   TropT
   0.38
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   117
   111
   161
   109
   102
   Other labs: PT / PTT / INR:14.0/25.2/1.2, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:27/41, Alk Phos / T Bili:91/0.2,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:329 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   69 yo female with history of A-fib on coumadin now seen with GI Bleed
   and hospital course complicated by CHF, NSTEMI and A-fib with RVR.  She
   has had substantial improvement over time with the balance of fluid
   maintained as negative where possible.
   GI BLEED-
   -EGD for today if recurrent bleeding seen--will maintain control of
   coagulopathy going forward given bleeding
   -Continue 2 P-IV's for access
   -T+C current
   -FU HCT this pm
   -Move to [**Hospital1 **] PPI
   ATRIAL FLUTTER-
   -Will maintain Dilt gtt and titrate up
   -Lopressor to continue
75mg tid
   -Goal HR is to be at or less than 100.  This is a challenge as patient
   has rapid elevation in HR with minimal stimulus.
   -We understant the reluctance to continue amiodarone but if unable to
   maintain stable HR with GIB resolved will have to consider further
   intervention.
   -In the interim will move to PO Dilt dosing
30mg qid
   ANEMIA-SECONDARY TO BLOOD LOSS
   -F/U HCT this pm
   -Will transfuse for acute change
   Congestive Heart Failure--Acute and Diastolic appears to be source at
   this time
in the setting of refractory tachycardia.
   -Lasix gtt to continue
   -HR control as above
   -Current diagnosis is demand ischemia with acute stress leading to
   sub-endocardial insult
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition: Return to PO diet with patient not going for procedure
   today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2178-02-10 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI Bleed
   24 Hour Events:
   - The patient was started on 30 mg of dilt qid and her metoprolol was
   increased to 75 mg tid. The dilt gtt was weaned off.  Her rate remained
   in the low 100's.  Cardiology signed off.  Her rate remained in the
   110's so her diltiazem was increased to 60 mg qid.
   - As her Hct has been stable and she's had no signs of bleeding, GI
   wants to wait to do the EGD once she's on the floor and rate-controlled
   better.
   - A TTE showed: The left atrium is mildly dilated. Overall left
   ventricular systolic function is low normal (LVEF 50-55%). There is
   borderline pulmonary artery systolic hypertension.
   - Her last day of levaquin should be on the 27th.
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-2-9**] 10:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-10**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 74 (71 - 117) bpm
   BP: 138/63(90) {103/48(65) - 153/94(99)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    715 mL
                                                                     60 mL
   PO:
                                                                    480 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,931 mL
                                                                    337 mL
   Urine:
                                                                  1,931 mL
                                                                    337 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,216 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   332 K/uL
   10.7 g/dL
   102 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   139 mEq/L
   32.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
                             [**2178-2-9**]  04:28 AM
                             [**2178-2-10**]  02:44 AM
   WBC
   22.4
   18.7
   15.3
   10.2
   8.5
   Hct
   33.2
   30.0
   29.5
   31.2
   29.4
   30.7
   32.3
   Plt
   [**Telephone/Fax (3) 3686**]94
   332
   Cr
   1.2
   1.5
   1.4
   1.2
   1.1
   TropT
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   111
   161
   109
   102
   102
   Other labs: PT / PTT / INR:13.3/24.5/1.1, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:27/41, Alk Phos / T Bili:91/0.2,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:329 IU/L, Ca++:9.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: ECHO:
   The left atrium is mildly dilated. No atrial septal defect is seen by
   2D or color Doppler. Left ventricular wall thicknesses and cavity size
   are normal. Regional left ventricular wall motion is normal. Overall
   left ventricular systolic function is low normal (LVEF 50-55%). There
   is no ventricular septal defect. Right ventricular chamber size and
   free wall motion are normal. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. Trace aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. The tricuspid valve leaflets
   are mildly thickened. There is borderline pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   Micro:
   Sputum:  oropharyngeal flora
   Blood 1/23:  NGTD
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   69F w/ h/o afib on coumadin, PUD, COPD, CKD, h/o CVA, HTN,
   hyperlipidemia transferred from [**Hospital1 709**] by family request after presenting
   with black stools, developed hypoxemia and tachyarrhythmia with RVR,
   now with continued respiratory distress complicated by demand ischemia.
   # Tachyarrhythmia: Resolved after stabilization with po dilt and
   metoprolol. Has been hemodynamically stable, but bps
    running in the 90
s   Cards consult was obtained for refractory A.
   flutter in the 140s after failing Diltiazem, Lopressor, Amiodarone,
   Digoxin load. Cards recommended uptitrating her betablocker therapy
   which agaon had no effect. Pt was then transitioned to Dilit gtt which
   she responded to with only 5mg/hr.
   - will d/c po dilt now that patient
s hct is stabilized and no longer
   has stress response to blood loss, have low threshold for restarting po
   or gtt if reverts into Afibwith RVR
   - continue metoprolol 75mg tid for rate control
   - appreciate card recs
   - no anticoagulation in setting of GIB
 will discuss with GI when ok
   to restart
   # Respiratory distress/COPD/PNA:  Leukocytosis resolved at 8.5 this
   morning.  Scattered crackles on  exam.  The patient has a history of
   COPD, likely exacerbated by by her tachyarrhythmia and fluid overload.
   She was on a Furosemide gtt  and over night started on a low-dose lasix
   gtt for continued diuresis as her CXR showed evdience of pulmonary
   edema.  There was also a question of a PNA at the OSH for which she was
   continued on Levofloxacin.
   - goal I/O -1L, did on own yesterday, will reassess tonight and give iv
   lasix if needed
   - COPD treatment including advair, spiriva, and standing atrovent nebs
   and xopenex nebs
   - Continue levofloxacin for a 5 day total course  - last dose today
   # CRI:  Cr at 1.1 this morning prior increased Creatinnine most likely
   due to poor forward flow given her response to Lasix diuresis
   - trend,  replete lytes prn
   # NSTEMI: Was Likely secondary to demand from anemia, resp distress,
   and tachycardia. CK 159 -->139 --> 115
98  MB 12 --> 9 --> 7
5  Trop
   0.39 --> 0.38 --> 0.37
 0.23.  Currently chest pain free.
   - As her CEs have been trending down, no need to continue trending.
   - TTE shoued preserved EF with borderline PAH.
   - continue metoprolol to 75mg TID as above
   - continue statin
   - no ASA, no heparin [**2-16**] GI bleeding
 would benefit from ASA after EGD
   with GI
   # GIB: Stable hct for 48 hours around 30.  GI aware and given her
   stable Hct , no need for emergent EGD, will scope when pt is floor
   status.
   - continue PO BID Protonix
   - no anti-coagulation as above
   - plan for EDG with GI once on floor
   # h/o CVA: on anticoagulation as outpatient but GIB currently precludes
   this
   - monitor neuro exam
   - hold anticoagulation due to recent GIB as above
   # Hypertension: Has been hypotensive as above.  Her BP was elevated on
   admission likely from respiratory distress.  Has been low normotensive
   for several days.  She was given metoprolol for rate control and loaded
   with amiodarone as above and her SBPs dropped to the point she required
   neo for a short period of time.
   -  Continue to monitor BP closely.
   # Hypercholesterolemia: Continue statin
   # Depression: Continue citalopram
   ICU Care
   Nutrition: Regular cardiac diet
   Glycemic Control:  not indicated, sugars have been well controlled
   without insulin for several days, will d/c SSI
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
   Arterial Line - [**2178-2-6**] 07:19 PM
   Prophylaxis:
   DVT: none give GIB
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  with patient
   Code status: Full code
   Disposition: ICU

2178-02-10 10:46:00 Physician Attending Progress Note
Chief Complaint: GIB
   A-Fib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   TTE--Low normal EF
   HR decrease to 63 with return to sinus rhythm
   History obtained from Medical records
   Allergies:
   Codeine
   Unknown;
   Azithromycin
   Unknown;
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-2-9**] 10:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-2-10**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 65 (63 - 117) bpm
   BP: 107/88(95) {103/48(65) - 153/94(99)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    715 mL
                                                                    400 mL
   PO:
                                                                    480 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,931 mL
                                                                    412 mL
   Urine:
                                                                  1,931 mL
                                                                    412 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,216 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   332 K/uL
   102 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   139 mEq/L
   32.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2178-2-6**]  08:24 PM
                             [**2178-2-6**]  08:30 PM
                             [**2178-2-6**]  11:01 PM
                             [**2178-2-7**]  12:23 AM
                             [**2178-2-7**]  04:44 AM
                             [**2178-2-7**]  12:27 PM
                             [**2178-2-7**]  10:31 PM
                             [**2178-2-8**]  03:46 AM
                             [**2178-2-9**]  04:28 AM
                             [**2178-2-10**]  02:44 AM
   WBC
   22.4
   18.7
   15.3
   10.2
   8.5
   Hct
   33.2
   30.0
   29.5
   31.2
   29.4
   30.7
   32.3
   Plt
   [**Telephone/Fax (3) 3686**]94
   332
   Cr
   1.2
   1.5
   1.4
   1.2
   1.1
   TropT
   0.37
   0.23
   0.15
   TCO2
   29
   24
   28
   Glucose
   111
   161
   109
   102
   102
   Other labs: PT / PTT / INR:13.3/24.5/1.1, CK / CKMB /
   Troponin-T:70/3/0.15, ALT / AST:27/41, Alk Phos / T Bili:91/0.2,
   Differential-Neuts:87.2 %, Band:0.0 %, Lymph:5.3 %, Mono:7.3 %, Eos:0.1
   %, Lactic Acid:2.2 mmol/L, Albumin:2.7 g/dL, LDH:329 IU/L, Ca++:9.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   69 yo female admitted with GIB with improved control with correction of
   coagulopathy and with supportive care and rate control significant
   improvement in rate control has been achieved.
   ATRIAL FIRBILLATION-
   -Lopressor 75mg tid
   -Diltiazem 60mg QID
   -Will need to maintain telemetry
   -Will move to have patient OOB to chair today
   GI Bleed-
   -HCT maintained at >30 throughout
   -Will need follow up evalaution with GI for timing of endoscopy which
   is reasonable to work to perform as long as HR has been optimized and
   bleeding minimal
   -PPI to continue
   Anemia Secondary to Blood Loss-
   -Reasonable stability to transfusion over time
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-2-6**] 04:04 PM
Will D/C today
   Arterial Line - [**2178-2-6**] 07:19 PM-_Will D/C Today
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes